US09023847B2
11. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-hydroxy-propyl)-amide
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using 1-amino-2-propanol instead of 1-BOC-3-aminopyrrolidine. LCMS (ESI) 317 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.49 (1H, s) 10.22 (1H, s) 7.99 (1H, d, J=5.47 Hz) 7.94-7.98 (1H, m) 7.75 (1H, d, J=5.47 Hz) 7.44 (1H, d, J=5.27 Hz) 7.28 (1H, dd, J=3.42, 2.44 Hz) 6.77 (1H, d, J=5.47 Hz) 6.40 (1H, dd, J=3.42, 1.85 Hz) 4.70 (1H, d, J=4.69 Hz) 3.69-3.79 (1H, m) 3.09-3.20 (2H, m) 1.01 (3H, d, J=6.05 Hz)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | 1-amino-2-propanol | NCC(C)O | C3H9NO
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-hydroxy-propyl)-amide | OC(CNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2)C | C15H16N4O2S
